US08030500B2
1-(2-Bromopyridin-4-yl)-1-(2-(difluoromethyl)pyridin-4-yl)-4-fluoro-1H-isoindol-3-amine
n-Butyllithium (2.5 M in hexane) (0.353 mL, 0.88 mmol) was added to 4-bromo-2-(difluoromethyl)pyridine (183 mg, 0.88 mmol) in THF (7 mL) at −78° C. under argon atmosphere. The reaction was stirred for 30 min before N-((2-bromopyridin-4-yl)(2-cyano-3-fluorophenyl)methylene)-2-methylpropane-2-sulfinamide (300 mg, 0.73 mmol) in THF (2 mL) was added. The reaction was kept at −78° C. for 1 hour and then allowed to reach room temperature. Methanol (5 mL) was added followed by hydrochloric acid (1 M in diethylether) (2.204 mL, 2.20 mmol) and the reaction was stirred for 1 hour at room temperature. The reaction mixture was concentrated in vacuo and the residue was partitioned between aqueous sodium bicarbonate (sat.) and ethyl acetate. The aqueous phase was extracted with EtOAc (×3). The combined organic phases were dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by prep. HPLC to afford the title compound (64 mg, 20%).

reactant | n-Butyllithium | 0.88 mmol, 2.5 M, 0.353 mL | C(CCC)[Li]
reactant | 4-bromo-2-(difluoromethyl)pyridine | 0.88 mmol, 183 mg | BrC1=CC(=NC=C1)C(F)F | C6H4BrF2N
reactant | N-((2-bromopyridin-4-yl)(2-cyano-3-fluorophenyl)methylene)-2-methylpropane-2-sulfinamide | 0.73 mmol, 300 mg | BrC1=NC=CC(=C1)C(=NS(=O)C(C)(C)C)C1=C(C(=CC=C1)F)C#N | C17H15BrFN3OS
reactant | hydrochloric acid | 2.20 mmol, 1 M, 2.204 mL | Cl | ClH
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | Methanol | 5 mL | CO | CH4O
product | 1-(2-Bromopyridin-4-yl)-1-(2-(difluoromethyl)pyridin-4-yl)-4-fluoro-1H-isoindol-3-amine | 64 mg, 20% | BrC1=NC=CC(=C1)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=NC=C1)C(F)F | C19H12BrF3N4
